US07855292B2
(S)-3-(3-Bromo-4-chloro-phenyl)-2-[4-chloro-2-(quinoxaline-5-sulfonylamino)-benzoylamino]-propionic acid
(S)-3-(3-Bromo-4-chloro-phenyl)-2-[4-chloro-2-(quinoxaline-5-sulfonylamino)-benzoylamino]-propionic acid was prepared from 3-bromo-4-chloro-L-phenylalanine methyl ester hydrochloride and 4-chloro-2-(quinoxaline-5-sulfonylamino)-benzoic acid as in Example 1, Part C. Hydrolysis of the methyl ester as in EXAMPLE 2, Part E, provided the title compound. HPLC: RT=9.80 min. MS (ESI−): mass calcd. for C24H17BrCl2N4O5S, 624.29; m/z found, 621/623/625 [M−H]−. 1H NMR (400 MHz, CDCl3): 11.04 (s, 1H), 8.98 (d, J=1.6, 1H), 8.90 (d, J=1.6, 1H), 8.54 (dd, J=7.3, 1.0, 1H), 8.28 (dd, J=8.4, 0.9, 1H), 7.91-7.86 (m, 1H), 7.71 (d, J=1.9, 1H), 7.43 (d, J=1.8, 1H), 7.33 (d, J=8.2, 1H), 7.13 (d, J=8.4, 1H), 7.05 (dd, J=8.2, 1.9, 1H), 6.86 (dd, J=8.4, 1.9, 1H), 6.53 (d, J=7.5, 1H), 4.91 (q, J=6.2, 1H), 3.34-3.09 (m, 2H).

reactant | 3-bromo-4-chloro-L-phenylalanine methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CC(=C(C=C1)Cl)Br)=O
reactant | 4-chloro-2-(quinoxaline-5-sulfonylamino)-benzoic acid | ClC1=CC(=C(C(=O)O)C=C1)NS(=O)(=O)C=1C=2N=CC=NC2C=CC1 | C15H10ClN3O4S
product | (S)-3-(3-Bromo-4-chloro-phenyl)-2-[4-chloro-2-(quinoxaline-5-sulfonylamino)-benzoylamino]-propionic acid | BrC=1C=C(C=CC1Cl)C[C@@H](C(=O)O)NC(C1=C(C=C(C=C1)Cl)NS(=O)(=O)C=1C=2N=CC=NC2C=CC1)=O | C24H17BrCl2N4O5S
